### PR TITLE
Formalize Erdős Problem 1107

### LINKED ISSUE #1304: Erdős Problem 1107
### What is the conjecture

https://www.erdosproblems.com/1107

  Let $r\geq 2$. A number $n$ is $r$-powerful if for every prime $p$ which divides $n$ we have $p^r\mid n$. Is every large integer the sum of at most $r+1$ many $r$-powerful numbers?

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by zer-art**
Closes #1304

**Summary**
This PR adds the formalization for Erdős Problem 1107 involving r-powerful numbers.

**Changes**
* Created `FormalConjectures/Erdos1107.lean`
* Added definition for `IsRPowerful`
* Formalized the conjecture statement with appropriate AMS tags (AMS 11).

**Verification**
* [x] Code matches project style and license requirements.
* [x] Tested locally; no compilation errors.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1107.lean [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+namespace Erdos1107
+
+open Nat
+
+/--
+A number $n$ is $r$-powerful if for every prime $p$ which divides $n$,
+we have $p^r$ divides $n$.
+-/
+def IsRPowerful (r n : ℕ) : Prop :=
+  ∀ p, p.Prime → p ∣ n → p ^ r ∣ n
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1107.lean]:
```suggestion
```
`Powerful` is already definied in 
FormalConjectures/ForMathlib/Data/Nat/Full.lean

File: FormalConjectures/ErdosProblems/1107.lean [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+
+/--
+Let $r \ge 2$. Is every large integer the sum of at most $r + 1$ many $r$-powerful numbers?
+-/
+@[category research open, AMS 11]
+theorem erdos_1107 :
+    ∀ r ≥ 2, ∃ N, ∀ n ≥ N,
+    ∃ s : List ℕ, s.length ≤ r + 1 ∧ (∀ x ∈ s, IsRPowerful r x) ∧ s.sum = n := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1107.lean]:
```suggestion
    ∀ r ≥ 2, ∃ᶠ n : ℕ in Filter.atTop,
    ∃ s : List ℕ, s.length ≤ r + 1 ∧ (∀ x ∈ s, r.Full x) ∧ s.sum = n := by
```

There is `∃ᶠ` and `Full`

File: FormalConjectures/ErdosProblems/1107.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1107.lean:51]:
```suggestion
/--
Every large integer the sum of at most $2 + 1$ many $2$-powerful numbers,
as proved by Heath-Brown [He88]

[He88] Heath-Brown, D. R., Ternary quadratic forms and sums of three square-full numbers. (1988)
-/
@[category research solved, AMS 11]
theorem erdos_1107.variants.two : ∃ᶠ n : ℕ in Filter.atTop,
    ∃ s : List ℕ, s.length ≤ 2 + 1 ∧ (∀ x ∈ s, Powerful x) ∧ s.sum = n := by
  sorry
```

Let's add this known result as well. One could also define the Property ` ∃ᶠ n : ℕ in Filter.atTop,
    ∃ s : List ℕ, s.length ≤ r + 1 ∧ (∀ x ∈ s, r.Full x) ∧ s.sum = n` separately and re-use it for both theorems. That would be nicer, but whatever works, I suppose.

**Comment by zer-art** [comment]
Thanks for the feedback! I'll update the docstring to include the Heath-Brown (1988) result and add the erdos_1107.variants.two theorem as requested. I'll also add the solved category tag. Working on the updates now!

File: FormalConjectures/ErdosProblems/1107.lean [hunk 4]
```diff
@@ -0,0 +1,55 @@
...
+/--
+Let $r \ge 2$. Is every large integer the sum of at most $r + 1$ many $r$-powerful numbers?
+-/
+@[category research open, AMS 11]
+theorem erdos_1107 : ∀ r ≥ 2, ∀ᶠ n in atTop, SumOfRPowerful r n := by
+  sorry
+
+/--
+Heath-Brown [He88] proved this for $r=2$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1107.lean]:
```suggestion
Heath-Brown [He88] proved every large integer the sum of at most three 
$2$-powerful numbers.
```

Let's repeat what "this" is here

**Review by mo271 — APPROVED** [review]
Thanks

**Comment by zer-art** [comment]
Updated the docstring phrasing as requested. Thanks!

File: FormalConjectures/ErdosProblems/1107.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+
+/-!
+# Erdős Problem 1107
+
+*Reference:* [erdosproblems.com/1107](https://www.erdosproblems.com/1107)
+
+Every large integer is the sum of at most $r+1$ many $r$-powerful numbers.
+proved by Heath-Brown [He88] for $r=2$ (sums of 3 square-full numbers).
+
+[He88] Heath-Brown, D. R., Ternary quadratic forms and sums of three square-full numbers. (1988)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1107.lean]:
```suggestion
*References:* 
- [erdosproblems.com/1107](https://www.erdosproblems.com/1107)
- [He88] Heath-Brown, D. R., Ternary quadratic forms and sums of three square-full numbers. (1988)
```

**Comment by mo271** [comment]
One more suggestions. And could you click on "Resolve conversation" for the ones that are resolved: that makes review easier.

**Comment by zer-art** [comment]
Applied the suggestion to format the References section as a list. Thanks!
